US07615556B2
Step 1: cis-Tert-butyl 3-(1-(3,4-dichlorophenyl)piperazine-4-carbonyl)cyclohexylcarbamate
To a mixture of 4-(3,4-dichlorophenyl)piperazine (350 mg, 1.51 mmol), cis-3-(N-Boc-amino)cyclohexane carboxylic acid (368 mg, 1.51 mmol), HOBt (209 mg, 1.51 mmol) and EDC (291 mg, 1.51 mmol) was added dichloromethane followed by TEA (153 mg, 1.51 mmoL). Upon completion of addition, the resulting solution was allowed to stir overnight. At the conclusion of this period, the reaction mixture was concentrated and then purified via silica gel chromatography (20% to 50% EtOAc/hexanes) to provide the title compound (640 mg) as an oil.

reactant | 4-(3,4-dichlorophenyl)piperazine | 1.51 mmol, 350 mg | ClC=1C=C(C=CC1Cl)N1CCNCC1 | C10H12Cl2N2
reactant | cis-3-(N-Boc-amino)cyclohexane carboxylic acid | 1.51 mmol, 368 mg | C(=O)(OC(C)(C)C)N[C@H]1C[C@H](CCC1)C(=O)O | C12H21NO4
reactant | HOBt | 1.51 mmol, 209 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1.51 mmol, 291 mg
solvent | dichloromethane | ClCCl | CH2Cl2
product | cis-Tert-butyl 3-(1-(3,4-dichlorophenyl)piperazine-4-carbonyl)cyclohexylcarbamate | 640 mg | ClC=1C=C(C=CC1Cl)N1CCN(CC1)C(=O)[C@H]1C[C@H](CCC1)NC(OC(C)(C)C)=O | C22H31Cl2N3O3
